US07655648B2
a) 1,1-Dimethylethyl 3-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-azetidinecarboxylate
To a solution of 1,1-dimethylethyl 3-(aminomethyl)-1-azetidinecarboxylate (5.0 g, 26.84 mmole) in DMF (40 mL) was added triethylamine (4.9 mL, 34.9 mmole) and Cbz-succinamide (8.7 g, 34.9 mmole). After 18 hours, the reaction solution was concentrated under vacuum and redissolved in EtOAc (250 mL). The organic solution was washed with H2O (2×150 mL), brine (100 mL) and dried over Na2SO4 and concentrated. The remaining residue was purified on silica (hexanes/EtOAc, 1:1) to give the title compound (5.5 g, 64%) as a light yellow oil: LC-MS (ES) m/e 321 (M+H)+.

reactant | 1,1-dimethylethyl 3-(aminomethyl)-1-azetidinecarboxylate | 26.84 mmole, 5.0 g | NCC1CN(C1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 34.9 mmole, 4.9 mL | C(C)N(CC)CC | C6H15N
reactant | Cbz-succinamide | 34.9 mmole, 8.7 g | C(=O)(OCC1=CC=CC=C1)C(C(=O)N)CC(=O)N | C12H14N2O4
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 3-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-azetidinecarboxylate | 5.5 g, 64% | C1(=CC=CC=C1)COC(=O)NCC1CN(C1)C(=O)OC(C)(C)C | C17H24N2O4
